US08871756B2
N-{[3-(Dibenzylamino)oxetan-3-yl]methyl}-2-(5,5-difluoro-1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)-6-methylquinazolin-4-amine
To a solution of 2-chloro-N-{[3-(dibenzylamino)oxetan-3-yl]methyl}-6-methylquinazolin-4-amine (200 mg, 0.436 mmol) in N,N-dimethylformamide (3 mL) was added 5,5-difluoro-1,3,4,5-tetrahydro-2H-2-benzazepine (80 mg, 0.436 mmol) and triethylamine (89 mg, 0.872 mmol). The mixture was heated at 120° C. for 30 minutes under microwave irradiation. The reaction was poured into water (10 mL) and extracted with dichloromethane (15 mL×3). The combined organic layers were dried over sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography (eluting with 20% ethyl acetate in petroleum ether) to afford 190 mg of the product as a brown solid (yield was 72%).

reactant | 2-chloro-N-{[3-(dibenzylamino)oxetan-3-yl]methyl}-6-methylquinazolin-4-amine | 0.436 mmol, 200 mg | ClC1=NC2=CC=C(C=C2C(=N1)NCC1(COC1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)C | C27H27ClN4O
reactant | 5,5-difluoro-1,3,4,5-tetrahydro-2H-2-benzazepine | 0.436 mmol, 80 mg | FC1(CCNCC2=C1C=CC=C2)F | C10H11F2N
reactant | triethylamine | 0.872 mmol, 89 mg | C(C)N(CC)CC | C6H15N
reactant | water | 10 mL | O | H2O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | N-{[3-(Dibenzylamino)oxetan-3-yl]methyl}-2-(5,5-difluoro-1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)-6-methylquinazolin-4-amine | 190 mg, yield was 72% | C(C1=CC=CC=C1)N(C1(COC1)CNC1=NC(=NC2=CC=C(C=C12)C)N1CC2=C(C(CC1)(F)F)C=CC=C2)CC2=CC=CC=C2 | C37H37F2N5O
